Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Flexeril / Aspirin
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
Endogastroduodenoscopy
 
History of Present Illness:
___ y.o. female with HTN, DM II p/w abdominal pain since night 
prior to admission. The patient reports that her abdominal 
discomfort is primarily present in the epigastric area and that 
he pain is sharp. Pt report that the pain is constant and cannot 
name any alleviating or aggravating factors. Pt has not eaten in 
nearly 24 hrs because of abdominal discomfort with eating.  

Pt endorses a h.o. similar pains x over ___ years. Pt's abdominal 
discomfort has been attributed to constipation and gas in the 
past. The patient had admission four months ago at ___ for 
work-up, that is reportedly (per patient) negative.  
  
In the ED, patient's VS were stable. The patient was found to 
have a CT scan with enteritis (infectious likely versus 
ischemic). Surgery consulted and not surgical abdomen. Pt 
received Zofran 4mg and and Morphine 4mg for pain and nausea 
control. Labs WNL. Urinalysis negative, got CXR and KUB neg.  
  
ROS was otherwise essentially negative, unless otherwise 
specified above. 
 
Past Medical History:
Diabetes type-II  
Hypertension  
Hyperlipidemia  
H/o dermatophytosis  
H/o onychomycosis  
Chronic abd pain: on lactulose and PPI, colonoscopy in ___ wnl  

H/o H. pylori  
LBP: Likely ___ to muscule spasms  
TMJ  
Depression  
S/p L cataract extraction: ___  
 
Social History:
___
Family History:
Mother: hypertension, arthritis, congestive heart failure
Father: died secondary to to complications of MI
Children: patient does not know of health problems among her 
children
 
Physical Exam:
Vitals: 98.5, 145/91, 60, 18, 97%RA  
General: NAD, pleasant, appropriate, cooperative.  
HEENT: NCAT, EOMI, no scleral icterus, dry MM  
Neck: supple, no significant JVD or carotid bruits appreciated  
Pulmonary: Lungs CTA bilaterally, no wheezes, ronchi or rales  
Cardiac: RR, nl S1 S2, no murmurs, rubs or gallops appreciated  
Abdomen: soft. Epigastric TTP. Mild RUQ/LUQ TTP. No BLQ 
tenderness. No rebound. ND. Normoactive bowel sounds, no masses 
or organomegaly noted  
Extremities: No edema, 2+ radial, DP pulses b/l  
Skin: no rashes or lesions noted. 

Discharge exam: unchanged with following exceptions:
Abdomen: soft, non-tender to palpation.
 
Pertinent Results:
CT abdomen and pelvis with IV contrast
COMPARISON: Compared to upper GI series from ___.
1. Long segment of regular small bowel wall thickening, with 
adjacent fat
stranding, and moderate amount of free fluid, with short segment 
of fibrofatty changes at the distal rectum. Differential 
diagnosis includes inflammatory enteritis, as initial 
presentation of Crohn's disease, small vessel vasculitis 
(undiagnosed connective tissue disorder), infectious enteritis, 
(although not supported by clinical data), angioedema (less 
likely due to distribution), hypocoagulability, and less likely 
lymphoma.
2. Abnormal thickening of the endometrial cavity in this 
postmenopausal
woman. Pelvic ultrasound is recommended to further evaluate this 
finding.
Differential diagnosis includes hyperplasia, polyp; cannot rule 
out neoplasm.

EGD: Normal stomach, duodenum and esophagus.
 
Brief Hospital Course:
___ y.o. Female with HTN, DM II, history of H. Pylori that was 
apparently treated who has cramping abdominal pain that has been 
occurring episodically since ___.  The patient has been having 
these symptoms since just after she moved to the ___ 
from ___.  

## Abdominal Pain: The patient was found to have severe cramping 
abdominal pain and tenderness to palpation at the epigastric 
region.  CT scan showed stranding and evidence of small bowel 
enteritis.  GI was consulted and an EGD was performed, which 
showed normal stomach, esophagus and duodenum with no evidence 
of an ulcer.  It was noted that the patient's symptoms began 
immediately after coming to the ___.  Most likely 
diagnosis is angioedema, secondary to potential c1 esterase 
deficiency.  The patient's lisinopril was stopped, and her 
symptoms resolved (probably a coincidence).  Follow-up with GI 
was arranged to discuss final test results.

## Endometrial thickening: Found incidentally on CT scan.  If 
clinical picture warrants, this should be followed up as an 
outpatient with a vaginal ultrasound.

## Benign hypertension: Lisinopril discontinued because of 
concern that it is causing angioedema.  Amlodipine started in 
place of it.
 
Medications on Admission:
Pravastatin 20mg daily  
Lisinopril 10mg daily  
Metformin 500mg daily
 
Discharge Medications:
1. Pravastatin 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
3. Metformin 500 mg Tablet Sig: One (1) Tablet PO once a day.  
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Angioedema of the small bowel

Secondary: Diabetes, hypertension.
 
Discharge Condition:
Good, stable
 
Discharge Instructions:
You were admitted to the hospital with abdominal pain.  Because 
of the severity of your pain, we were concerning about an ulcer 
and you had a camera inserted down your esophagus to look at 
your stomach.  Your stomach looked entirely normal, however we 
took some tissue samples in order to rule out infection.

You had a CT scan of your belly, which showed that there was a 
lot of fluid and inflammation around your small bowel.  Our 
stomach doctors came and saw ___, and they believe that this was 
caused by one of the blood pressure medications that you were 
on, lisinopril.  For this reason, we sent off several blood 
tests to confirm this.  You will need to come to see the stomach 
doctors in their office to get the results of these tests.  

We have taken you off of your lisinopril, and started you on a 
different medication called amlodipine for your blood pressure.  
You should not take lisinopril for the time being until you see 
the stomach doctors.  ___ have made no other changes to your 
medications.

Please take all medications as prescribed, and keep all of your 
follow-up appointments.
 
Followup Instructions:
___